US07060844B2
A mixture of 3-[5-(2-chloro-ethylamino)-3H-isobenzofuran-1-ylidene]-1,3-dihydro-indol-2-one (1.10 g, 3.37 mmol) and piperidine (8 ml, 80.9 mmol) was heated at 110° C. for 4 hours. After cooled to room temperature, the mixture was poured into an ice water (150 ml) with stirring. The solid was filtered, washed with water and dried to give a crude product. Trituration of the crude product with CHCl3/hexanes afforded 3-[5-(2-piperidin-1-yl-ethylamino)-3H-isobenzofuran-1-ylidene]-1,3-dihydro-indol-2-one as a yellow solid (1.13 g, 89%).

reactant | 3-[5-(2-chloro-ethylamino)-3H-isobenzofuran-1-ylidene]-1,3-dihydro-indol-2-one | 3.37 mmol, 1.10 g | ClCCNC=1C=C2COC(C2=CC1)=C1C(NC2=CC=CC=C12)=O | C18H15ClN2O2
reactant | piperidine | 80.9 mmol, 8 ml | N1CCCCC1 | C5H11N
product | 3-[5-(2-piperidin-1-yl-ethylamino)-3H-isobenzofuran-1-ylidene]-1,3-dihydro-indol-2-one | 1.13 g, 89% | N1(CCCCC1)CCNC=1C=C2COC(C2=CC1)=C1C(NC2=CC=CC=C12)=O | C23H25N3O2
